US06852731B2
1-(6-Methoxypyridin-3-yl)-2-(methylamino)ethanol dihydrochloride
To a solution of HCl-dioxane (4.0 M, 50 mL) was added tert-butyl 2-hydroxy-2-(6-methoxypyridin-3-yl)ethyl(methyl)carbamate (1.0 g, 3.5 mmol). The suspension was stirred at room temperature for 16 hours. The solvent and excess HCl was evaporated, leaving a white solid. The solid was dissolved in methanol and purified with a silica gel column, diluting with 1% NH4OH/5% Methanol/dichloromethane, to yield the title compound (0.63 g) as a colorless oil.

reactant | HCl dioxane | 4.0 M, 50 mL | Cl.O1CCOCC1
reactant | tert-butyl 2-hydroxy-2-(6-methoxypyridin-3-yl)ethyl(methyl)carbamate | 3.5 mmol, 1.0 g | OC(CN(C(OC(C)(C)C)=O)C)C=1C=NC(=CC1)OC | C14H22N2O4
solvent | methanol | CO | CH4O
product | 1-(6-Methoxypyridin-3-yl)-2-(methylamino)ethanol dihydrochloride | 0.63 g | Cl.Cl.COC1=CC=C(C=N1)C(CNC)O | InChI=1S/C9H14N2O2.2ClH/c1-10-6-8(12)7-3-4-9(13-2)11-5-7;;/h3-5,8,10,12H,6H2,1-2H3;2*1H
